US04115389
N-Alkyl allylic tertiary amines are dealkylated as illustrated by treatment of (-)-1-(p-methoxybenzyl)-2-methyl-1,2,3,4,5,6,7,8-octahydroisoquinoline in cold methylene chloride with m-chloroperbenzoic acid followed by the addition of aqueous ferrous chloride to provide a good yield of (+)-1-(p-methoxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline with substantial if not complete retention of optical activity. The product is an intermediate in a synthesis of the analgesic known as butorphanol.

reactant | (-)-1-(p-methoxybenzyl)-2-methyl-1,2,3,4,5,6,7,8-octahydroisoquinoline | COC1=CC=C(CC2N(CCC=3CCCCC23)C)C=C1 | C18H25NO
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (+)-1-(p-methoxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline | COC1=CC=C(CC2NCCC=3CCCCC23)C=C1 | C17H23NO
